US07465795B2
4-amino-N-propyl-8-pyrazin-2-yl-cinnoline-3-carboxamide
Using method C, 4-amino-8-iodo-N-propyl-cinnoline-3-carboxamide (178 mg, 0.500 mmol) and 2-(tributylstannyl)pyrazine (219 mg, 0.600 mmol) were reacted to afford the title compound (70 mg, 45% yield) as an off-white solid. 1H NMR (300 MHz, CDCl3) δ 9.41 (m, 1H), 8.74 (m, 1H), 8.61 (d, J=2.5 Hz, 1H), 8.54 (br, 1H), 8.22 (m, 1H), 7.99 (m, 1H), 7.85-7.78 (m, 1H), 3.48 (apparent quartet, J=7.0 Hz, 2H), 1.69 (apparent sextet, J=7.0 Hz, 2H), 1.20 (t, J=7.0 Hz, 3H). MS APCI, m/z=309 (M+H) HPLC 1.49 min.

reactant | 4-amino-8-iodo-N-propyl-cinnoline-3-carboxamide | 0.500 mmol, 178 mg | NC1=C(N=NC2=C(C=CC=C12)I)C(=O)NCCC | C12H13IN4O
reactant | 2-(tributylstannyl)pyrazine | 0.600 mmol, 219 mg | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
product | 4-amino-N-propyl-8-pyrazin-2-yl-cinnoline-3-carboxamide | 70 mg, 45% yield | NC1=C(N=NC2=C(C=CC=C12)C1=NC=CN=C1)C(=O)NCCC | C16H16N6O
